US08138181B2
Preparation of 8-((trans)-1-(benzyloxycarbonyl-3-fluoropiperidin-4-yloxy)quinoline 1-oxide: To a 0° C. solution of (trans)-benzyl 3-fluoro-4-(quinolin-8-yloxy)piperidine-1-carboxylate (1.0 g, 2.63 mmol) in 20 mL CHCl3 and 2 mL MeOH was added 77% max. mCPBA in 4×250 mg portions. The reaction mixture was stirred 20 minutes, then another 2×250 mg portions of 77% max. mCPBA was added (total 77% max. mCPBA (1.51 g, 6.57 mmol)). The reaction mixture was stirred 10 minutes, warmed to ambient temperature, and stirred another 3 hours, after which it was cooled to 0° C. Another 2 equivalents of 77% max. mCPB A was added in 4 equal portions, and the reaction mixture was warmed to ambient temperature and stirred an additional 1.5 hours. The reaction mixture was cooled to 0° C., and saturated Na2S2O3 was added, followed by saturated NaHCO3. The mixture was stirred 10 minutes, then warmed to ambient temperature and stirred another 30 minutes. Solid NaCl was added, and the mixture was extracted with CHCl3. The combined extracts were dried (Na2SO4), filtered, concentrated, and dried in vacuo to give 8-((trans)-1-(benzyloxycarbonyl)-3-fluoropiperidin-4-yloxy)quinoline 1-oxide (1.0 g, 2.52 mmol, 96.0% yield), which was used without further purification in the next step.

reactant | (trans)-1-(benzyloxycarbonyl-3-fluoropiperidin-4-yloxy)quinoline 1-oxide | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](CC1)O[N+]1(CC=CC2=CC=CC=C12)[O-])F | C22H23FN2O4
reactant | (trans)-benzyl 3-fluoro-4-(quinolin-8-yloxy)piperidine-1-carboxylate | 2.63 mmol, 1.0 g | F[C@@H]1CN(CC[C@H]1OC=1C=CC=C2C=CC=NC12)C(=O)OCC1=CC=CC=C1 | C22H21FN2O3
reactant | mCPBA | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | mCPBA | 6.57 mmol, 1.51 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | mCPB | CC=1C=C(C=CC1OCCCC(=O)O)Cl | C11H13ClO3
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 2 mL | CO | CH4O
product | 8-((trans)-1-(benzyloxycarbonyl)-3-fluoropiperidin-4-yloxy)quinoline 1-oxide | 2.52 mmol, 1.0 g, 96.0% yield | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](CC1)OC=1C=CC=C2C=CC=[N+](C12)[O-])F | C22H21FN2O4
